Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Dr. ___ is an ___ year old male with a history of afib not 
on anticoagulation and ESRD on HD presents with hypotension and 
syncope. Patient was getting HD from ___ today when his SBP 
dropped to ___. ___ RN there was unable to wake him up for a 
minute, then he awoke. HD was stopped and he was given an 800cc 
NS bolus. BP then ___.  
 In the ED, he denied any symptoms with the exception of a cough 
for 1 month and some hematuria which he attributes to traumatic 
straight caths. He denies any fevers but states that his temp is 
98 here and is usually 96. Denied chills, chest pain, shortness 
of breath, abdominal pain. No headache, weakness. Still makes 
urine and straight caths 2x per day due to retention/incomplete 
evacuation.  
 From notes, it appears that pt had 3.5L removed. He was 
hypotensive to ___ at 1440 then up to ___ at 1500. He 
had 45min of HD remaining when the session was stopped.  
 He has had a chronic cough and recently noticed cloudy and 
bloody urine. Generally, he had been feeling unwell for about 
the last 10 days. Low strength and low energy. No abdominal 
pain. No F/C.  
 He states that he had fluid in his lungs a few weeks ago and 
they lowered his dry weight with dialysis. Since then, his cough 
might be slightly improving.  
 In the ED, initial vitals were: 97.4 70 108/51 18 Nasal 99% RA  

 Exam notable for:  
 Orthostatics:  
 supine- 146/64 HR 91  
 sitting- 123/94 HR 88  
 standing- 106/56 HR 101  
 Labs notable for: Lactate 1.6, Hgb 12.3, WBC 7.7 (7.8% eos), 
BUN/Cr 32/3.7, UA with >182 WBCs, Few bacteria, no Epis.  
 Imaging notable for:  
 CXR:  
 IMPRESSION:  
 Small bilateral pleural effusions.  
 Patient was given:  
 ___ 19:18 IVF 1000 mL NS 250 mL/hr  
 ___ 20:17 IV CeftriaXONE 1 gm  
 ___ 20:33 PO/NG Lanthanum 750 mg 
 
 On the floor, he is feeling much better.  
 
Past Medical History:
-AFib not on anticoagulation (warfarin stopped after AVG 
infiltration in ___  
 -ESRD on HD (initiated in ___ - unclear cause of ESRD, 
possibly contribution from T2DM though no other diabetic 
complications, also likely exacerbated by episodes of 
obstruction  
 -H/O T2DM x ___ years, improved after stopping his Lipitor  
 
Social History:
___
Family History:
No known chronic medical issues in the family. No history of 
kidney disease. Has a twin brother who did not develop diabetes.
 
Physical Exam:
ADMISSION EXAM
==============

Vital Signs: 97.6, 121/59, 97, 20, 95 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear  
 CV: Irregular, normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: AV fistula left upper arm, warm and well perfused, no ___ 
edema  

DISCHARGE EXAM
==============

Vital Signs: 97.3 | 130/67 | 78 | 18 | 95% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, no JVD  
CV: Irregular, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: mild expiratory wheezes throughout lung fields 
bilaterally
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding, no CVA tenderness  
GU: No foley  
Ext: AV fistula left upper arm with palpable thrill, +bruit, 
warm and well perfused, no ___ edema, 2+ peripheral pulses  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
==============

___ 06:26PM URINE  WBCCLUMP-MANY
___ 06:26PM URINE  RBC-105* WBC->182* BACTERIA-FEW 
YEAST-NONE EPI-0
___ 06:26PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-LG
___ 06:26PM URINE  COLOR-RED APPEAR-Cloudy SP ___
___ 06:26PM   PLT COUNT-221
___ 06:26PM   NEUTS-48.7 ___ MONOS-11.2 EOS-7.8* 
BASOS-0.9 IM ___ AbsNeut-3.74 AbsLymp-2.39 AbsMono-0.86* 
AbsEos-0.60* AbsBaso-0.07
___ 06:26PM   WBC-7.7 RBC-4.00* HGB-12.3* HCT-37.8* MCV-95 
MCH-30.8 MCHC-32.5 RDW-13.5 RDWSD-47.0*
___ 06:26PM   ALBUMIN-3.4* CALCIUM-8.6 PHOSPHATE-3.4 
MAGNESIUM-2.1
___ 06:26PM   LIPASE-46
___ 06:26PM   ALT(SGPT)-21 AST(SGOT)-30 ALK PHOS-189* TOT 
BILI-0.5
___ 06:26PM   GLUCOSE-92 UREA N-32* CREAT-3.7* SODIUM-136 
POTASSIUM-4.1 CHLORIDE-95* TOTAL CO2-27 ANION GAP-18
___ 06:34PM   LACTATE-1.6

DISCHARGE LABS
==============

___ 04:35AM BLOOD WBC-7.4 RBC-3.42* Hgb-10.8* Hct-31.9* 
MCV-93 MCH-31.6 MCHC-33.9 RDW-13.4 RDWSD-45.8 Plt ___
___ 04:35AM BLOOD Glucose-78 UreaN-59* Creat-5.7*# Na-133 
K-4.2 Cl-94* HCO3-25 AnGap-18
___ 04:35AM BLOOD Calcium-8.7 Phos-4.9* Mg-2.5

MICRO
=====

___ 6:26 pm URINE
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION.

IMAGING
=======

CXR ___: Small bilateral pleural effusions.
 
Brief Hospital Course:
Patient is an ___ year old male with PMHx of AFib and ESRD on HD 
who presents after an episode of hypotension at HD and UTI.  

 # Hypotension - Most likely due to volume removal at HD. 
Patient also with UTI sxs, though no fever or leukocytosis. 
Stabilized with fluids and was started on ceftriaxone in the ED. 
 Given improvement in sxs with abx, pt was continued on abx 
course although cxs showed mixed flora.  Ultimately hypotension 
was felt to be due to aggressive fluid removal at dialysis which 
had recently been started to improve is pleural effusions.  

 # UTI - Patient with U/A concerning for UTI on admission. 
Patient started on CTX in the ED. Patient reported having more 
urinary frequency last few days, fatigue, as well as cloudy and 
bloody urine. No CVA tenderness to suggest pyelonephritis.  
Patient self catheterizes, so is at increased risk of infection. 
He was discharged with a plan to continue cefpodoxime for 2 
doses after HD (on ___ and ___. Urine Cx consistent with 
fecal contamination. 

 # Anemia: Of note, pt's Hct decreased from 37.8 -> 31.9 during 
this hospitalization, but was stable on several lab checks. No 
e/o bleeding, and this was felt to be secondary to rehydration. 
At discharge, Hct was 38. He was discharged with a plan to f/u 
Hct at next HD session.  Iron studies showed AOCD.

 # ESRD on HD - Unclear etiology, possibly due to DM2 or 
recurrent obstruction. Receives HD MWF at ___ in ___. 
Patient did not require dialysis during admission. 

 # Cough - Likely related to small pleural effusions. No obvious 
pneumonia, no fever, chills. Has been improving with fluid 
removal at dialysis. Patient given Mucinex PRN and incentive 
spirometry.

 # AFib - Anticoagulation stopped in early ___ after AVG 
infiltration. It was not restarted given unclear benefit in 
patients with ESRD on HD (per Renal note from ___. Not on 
any rate control agents.  
 

TRANSITIONAL
============
- Dry weight may need to be clarified to prevent too much fluid 
removal at HD. 
- Cefpodoxime 200mg PO after HD on ___ and ___
- Patient should follow-up with his primary care physician 
within ___ week of discharge.
- Repeat Hct at next dialysis session. Discharge Hct was 38
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Dialyvite 800-Ultra D (FA-vit Bcomp-C-zinc-vitamin D3) 
0.8-2,000 mg-unit oral DAILY 
3. sevelamer CARBONATE 800 mg PO TID W/MEALS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. sevelamer CARBONATE 800 mg PO TID W/MEALS 
3. Dialyvite 800-Ultra D (FA-vit Bcomp-C-zinc-vitamin D3) 
0.8-2,000 mg-unit oral DAILY 
4. Cefpodoxime Proxetil 200 mg PO POST HD (___) 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth Post HD Disp #*2 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
UTI

Secondary diagnoses:
ESRD on HD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Dr. ___, 

___ came to the ___ after becoming hypotensive during 
dialysis. We think your blood pressure was low due to having too 
much fluid removed during your dialysis session. We repleted 
your fluids, and ___ blood pressure improved.

___ were also found to have a urinary tract infection. ___ are 
being discharged with cefpodoxime. ___ should take this after 
hemodialysis on ___ and ___. ___ should make an 
appointment to see your primary care physician within one week 
for further follow-up.

It was a pleasure caring for ___. We wish ___ well!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___